US07368578B2
To a solution of 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate (3.0 g) in tetrahydrofuran (50 mL)-ethanol (10 mL) was gradually added sodium borohydride (0.38 g) at room temperature. After stirring the reaction mixture at room temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. (2.62 g, yield 87%). melting point: 140-141° C.

reactant | 3-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate | 3.0 g | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)C=O)OC)C | C20H19NO7S
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.38 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl methanesulfonate | yield 87% | CS(=O)(=O)OC1=CC(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(C=C1)CO)OC)C | C20H21NO7S
